US07732461B2
(e) 4-[(4-amino-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
To a solution of 1,1-dimethylethyl {1-[(7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate (91 mg, 0.24 mmol) in chloroform (1 ml) was added HCl (4M in 1,4-dioxane) (2 ml) and the solution was stirred for 1 hour at 25° C. after which time the solvent was evaporated. The dihydrochloride salt of 4-[(4-amino-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one was used without further purification.

reactant | 1,1-dimethylethyl {1-[(7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | 0.24 mmol, 91 mg | O=C1N2C=3C(=CC=NC3C=C1)C(C2)CN2CCC(CC2)NC(OC(C)(C)C)=O | C21H28N4O3
reactant | HCl | 4M, 2 ml | Cl | ClH
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(4-amino-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | NC1CCN(CC1)CC1CN2C=3C1=CC=NC3C=CC2=O | C16H20N4O
